US07897607B2
5-Amino-1-(2,4-dimethylbenzyl)-3-methylpyridin-2(1H)-one
To a solution containing 0.2 g (0.73 mmol) of 1-(2,4-dimethylbenzyl)-3-methyl-5-nitropyridin-2(1H)-one in 50 ml of methanol was added 0.017 g (0.073 mmol) of platinum (IV) oxide (Adam's catalyst). The flask was fitted with a balloon of hydrogen and allowed to stir for 1 h. The reaction was filtered through GF/F paper and the filtrate concentrated under reduced pressure to afford 0.11 g (62%) of product.

reactant | 1-(2,4-dimethylbenzyl)-3-methyl-5-nitropyridin-2(1H)-one | 0.73 mmol, 0.2 g | CC1=C(CN2C(C(=CC(=C2)[N+](=O)[O-])C)=O)C=CC(=C1)C | C15H16N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | platinum (IV) oxide | 0.073 mmol, 0.017 g | [Pt](=O)=O
product | 5-Amino-1-(2,4-dimethylbenzyl)-3-methylpyridin-2(1H)-one | 0.11 g, 62% | NC=1C=C(C(N(C1)CC1=C(C=C(C=C1)C)C)=O)C | C15H18N2O
